US08431695B2
Step 2: Preparation of 2-benzyl-6-bromo-1,3-benzothiazole
A degassed mixture of 6-bromo-2-(methylthio)-1,3-benzothiazole (4.20 g, 16.14 mmol), tetrakis(triphenylphosphine)palladium(0) (186 mg, 0.161 mmol) and benzylzinc bromide (0.5 M in THF, 61.34 mL) was heated at 60° C. for 4 hrs. EtOAc (200 mL) was added and the organic layer was washed with saturated, aqueous NaHCO3 (3×150 mL), then water (3×150 mL). The organic layer was dried over MgSO4 and concentrated. The crude material was purified by ISCO® chromatography using 4% EtOAc in hexane to obtain the desired product (1.50 g, 28%). 1H NMR (400 MHz, acetone-d6) δ 8.20 (s, 1H), 7.88 (d, 1H), 7.62 (d, 1H), 7.44-7.30 (m, 5H), 4.44 (s, 2H); LC-MS m/z [M+H]+ 304.2 & 306.1, RT 4.02 min.

reactant | 6-bromo-2-(methylthio)-1,3-benzothiazole | 16.14 mmol, 4.20 g | BrC1=CC2=C(N=C(S2)SC)C=C1 | C8H6BrNS2
reactant | benzylzinc bromide | 0.5 M, 61.34 mL | [Br-].C(C1=CC=CC=C1)[Zn+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.161 mmol, 186 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 2-benzyl-6-bromo-1,3-benzothiazole | 1.50 g, 28% | C(C1=CC=CC=C1)C=1SC2=C(N1)C=CC(=C2)Br | C14H10BrNS
